US08067621B2
10a-(4-Chloro-benzenesulfonyl)-1,4,7-trifluoro-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one
To a solution of trans-10a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one in DMF (4 mL) was added Selectfluor®. The reaction mixture was heated at 50° C. overnight, cooled to rt and water was added to precipitate the desired product. The product was isolated by filtration washing with water then dried under vacuum to provide a colorless solid. 1H NMR CDCl3 400 MHz) δ 7.61 (d, 2H), 7.53 (d, 2H), 7.19-7.14 (m, 1H), 6.55-6.49 (m, 1H), 5.20 (d, 1H), 4.74 (dd, 2JH-F=46.7 Hz, 3JH-F=11.8 Hz, 1H) 4.66 (d, 1H), 3.18 (t, 1H), 2.9 (m, 1H), 2.53 (m, 1H), 2.41 (m, 1H), 2.18 (m, 1H); LCMS (MH+) 431.

reactant | trans-10a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one | ClC1=CC=C(C=C1)S(=O)(=O)[C@@]12[C@H](COC3=C(C=CC(=C13)F)F)CC(CC2)=O | C19H15ClF2O4S
reactant | Selectfluor | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 10a-(4-Chloro-benzenesulfonyl)-1,4,7-trifluoro-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one | ClC1=CC=C(C=C1)S(=O)(=O)C12C(COC3=C(C=CC(=C13)F)F)C(C(CC2)=O)F | C19H14ClF3O4S
